US06251912B1
iso-Propyldisulfanyl-acetic acid
To 11 g (50 mmol) of 2-,2′-dipyridyl disulfide and 8.4 mL (60 mmol) of triethyl amine in 100 mL of tetrahydrofuran at 0° C. as added 2.8 mL (40 mmol) of mercaptoacetic acid in 5 mL of tetrahydrofuran. The ice bath was removed and after one hour 6.0 mL (65 mmol) isopropyl thiol was added. The reaction was allowed to stir overnight at ambient temperature before diluting with ether and washing three times with 1N aqueous HCl. The product was then extracted into 10% aqueous NaOH. The aqueous phase was washed twice with ether and then acidified with HCl to pH ˜3.5. The product was extracted with ether, dried with Na2SO4, filtered and evaporated under reduced pressure to give a crude product. This material was distilled by Kugelrohr distillation to give 3.5 g (21 mmol, 42%) of partially purified product. This material was used in the next step without further purification.

reactant | 2-,2′-dipyridyl disulfide | 50 mmol, 11 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | triethyl amine | 60 mmol, 8.4 mL | C(C)N(CC)CC | C6H15N
reactant | mercaptoacetic acid | 40 mmol, 2.8 mL | SCC(=O)O | C2H4O2S
reactant | isopropyl thiol | 65 mmol, 6.0 mL | C(C)(C)S | C3H8S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | iso-Propyldisulfanyl-acetic acid | C(C)(C)SSCC(=O)O | C5H10O2S2
